Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
metformin / Victoza
 
Attending: ___
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with a significant cardiac past medical
history who presented after feeling weak and dizzy since this
morning, with episodes of vomiting and dehydration. The patient
endorses striking her head yesterday on a kitchen cabinet, but
had no symptoms at that time. This morning, she had a fall 
during
a period of vertigo with another head strike, but the patient
denies any loss of consciousness. She is currently on Aspirin 
and
Plavix for a history of four STEMI's, multiple cardiac stents 
and
a carotid stent that was placed in ___ of this year. 

 
Past Medical History:
Past Medical History:
 -Cerbrovascular Disease  
 -CAD, MI x3  
 -Systolic CHF  
 -HTN  
 -DM  
 -Hypothyroidism
 -dyslipidemia  
 -Obestiy
Past Surgical History:
 -Cholecystectomy  
 -Breast lumpectomy  
 -L rotator cuff repair  

 
Social History:
Patient is a retired ___ and lives alone
 
Physical Exam:
ON ADMISSION: 

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  ___       EOMs
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

UPON DISCHARGE: 
Awake, alert, oriented x3. MAE full. 
 
Pertinent Results:
Please refer to OMR for relevant imaging and lab results 
 
Brief Hospital Course:
___ y/o female s/p head strike and left parietal SDH on Plavix 
and ASA

# EDH
Neurological examination is stable. Repeat head CT ___ is
stable. Patient reporting some dizziness, scopolamine patch
ordered on ___ with good effect. 

# Cardiac Stents 
No chest pain or shortness of breath. Cardiology input regarding
recommendations for course of holding Plavix given CAD, cardiac
stents and carotid stent: Ok to hold Plavix ___ weeks, but given
patient's strong STEMI history, the patient should return sooner
than later. 

# Hyperglycemia
BG elevated, ISS increased on ___. Patient is now on her 
home
regimen of insulin. Per ___ recommendations, patient should 
dc
on home regimen and f/u with regular endocrinologist or PCP.

# Disposition
Patient was cleared by ___ for home with outpatient ___.

 
Medications on Admission:
Atorvastatin 80 mg tablet 
Plavix 75 mg tablet
Novolog 100 unit/mL subcutaneous solution
Levemir 100 unit/mL subcutaneous solution
ketoconazole 2 % topical cream
metoprolol succinate ER 25 mg tablet,extended release 24 hr
Nitrostat 0.3 mg sublingual tablet
quinapril 10 mg tablet
torsemide 20 mg tablet
Adult Low Dose Aspirin 81 mg tablet,delayed release
cholecalciferol (vitamin D3) 1,000 unit tablet
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  Glargine 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest Pain  
9.  Quinapril 10 mg PO DAILY  
10.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours 
RX *scopolamine base [Transderm-Scop] 1.5 mg (delivers 1 mg over 
3 days) Apply patch once a day and replace every 72 hours Disp 
#*4 Each Refills:*0 
11.  Torsemide 30 mg PO DAILY  
12.  Vitamin D 1000 UNIT PO DAILY  
13.Outpatient Physical Therapy
Dx: Epidural hematoma ___
Provider: ___ ___ (F) ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epidural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
You are cleared to continue your Aspirin. Please continue to 
hold Plavix until seen by Dr. ___.
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
Headache is one of the most common symptom after a brain 
bleed. 
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___